US06034275
Eb) 30.2 ml of 15% vinylmagnesium chloride solution in THF are added dropwise at 0° C. to a solution of 5.58 g of 4-trimethylsilyloxyphenyl-(4-bromo-phenyl)-methanone in 80 ml of toluene. The mixture is stirred at 0° C. for 2 h., then at room temperature for 2 h., subsequently hydrolyzed with 40 ml of ammonium chloride solution and extracted with methylene chloride. The extracts are dried, evaporated and purified over silica gel with toluene-acetone as the eluent. There are obtained 2.8 g of (RS)-4-[1-(4-bromophenyl)-1-hydroxy-allyl]-phenol, MS: m/e 304 (M+H+, 1Br).

reactant | vinylmagnesium chloride | 30.2 ml | C(=C)[Mg]Cl
reactant | 4-trimethylsilyloxyphenyl-(4-bromo-phenyl)-methanone | 5.58 g | C[Si](OC1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)Br)(C)C | C16H17BrO2Si
solvent | THF | C1CCOC1 | C4H8O
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | (RS)-4-[1-(4-bromophenyl)-1-hydroxy-allyl]-phenol | 2.8 g | BrC1=CC=C(C=C1)C(C=C)(O)C1=CC=C(C=C1)O | C15H13BrO2
